US04959361
2-(2-propynyl)-1H-benz[de]isoquinoline-1,3(2H)-dione
Potassium t-butoxide, 6.2 g (0.055 mol) was added to a solution of 9.9 g (0.05 mol) of naphthalimide in 50 ml of dimethylformamide cooled to -20° C. After stirring in the cold for 1 hour, 5 ml (0.055 mol) of propargyl bromide in 20 ml of dimethylformamide was added and the mixture was allowed to warm to room temperature. It was then heated to 45° C. for 45 minutes. After cooling, 15 ml of glacial acetic acid was added and the product was precipitated by addition of water. The solids were collected and recrystallized from ethyl acetate to leave 10 g (84%) of colorless crystals of 2-(2-propynyl)-1H-benz[de]isoquinoline-1,3-(2H)-dione with m.p. 235°-237° C.

reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | naphthalimide | 0.05 mol, 9.9 g | C1=CC2=C3C(=C1)C(=O)NC(=O)C3=CC=C2 | C12H7NO2
reactant | propargyl bromide | 0.055 mol, 5 ml | C(C#C)Br | C3H3Br
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(2-propynyl)-1H-benz[de]isoquinoline-1,3(2H)-dione | 10 g, 84% | C(C#C)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C15H9NO2
